US04470989
1.4 4-(5-Chlorobenzimidazol-2-on-1-yl)-piperidine
A mixture of 22.3 g of 1-carbethoxy-4-(5-chlorobenzimidazol-2-on-1-yl)-piperidine, 13 g of 50% strength sodium hydroxide solution and 90 ml of water was boiled under reflux for 24 hours. After the mixture had been cooled, the solution was stirred with 8.5 g of ammonium chloride for 30 minutes and extracted with chloroform, and the undissolved material was filtered off and discarded. The chloroform solution was dried and evaporated. The product crystallized, and has a melting point of 220° C.

reactant | 1-carbethoxy-4-(5-chlorobenzimidazol-2-on-1-yl)-piperidine | 22.3 g | C(=O)(OCC)N1CCC(CC1)N1C(NC2=C1C=CC(=C2)Cl)=O | C15H18ClN3O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ammonium chloride | 8.5 g | [Cl-].[NH4+]
solvent | water | 90 ml | O | H2O
product | 4-(5-Chlorobenzimidazol-2-on-1-yl)-piperidine | ClC1=CC2=C(N(C(N2)=O)C2CCNCC2)C=C1 | C12H14ClN3O
